.lib std_cells

.subckt and2inp a b vdd z
MP1 i a vdd vdd CMOSP W=240n L=60n  
MP2 i b vdd vdd CMOSP W=240n L=60n 
MN1 i a cn1 0 CMOSN W=120n L=60n 
MN2 cn1 b 0 0 CMOSN W=120n L=60n
mp3 z i vdd vdd CMOSP W=240n L=60n
mn3 z i 0 0 CMOSN W=120n L=60n
.ends and2inp

.subckt nand2inp a b vdd z
MP1 z a vdd vdd CMOSP W=240n L=60n 
MP2 z b vdd vdd CMOSP W=240n L=60n 
MN1 z a cn1 0 CMOSN W=120n L=60n 
MN2 cn1 b 0 0 CMOSN W=120n L=60n
.ends nand2inp

.subckt nand3inp a b c vdd z
MP1 z a vdd vdd CMOSP W=240n L=60n 
MP2 z b vdd vdd CMOSP W=240n L=60n 
MP3 z c vdd vdd CMOSP W=240n L=60n  
MN1 z a cn1 0 CMOSN W=120n L=60n 
MN2 cn1 b cn2 0 CMOSN W=120n L=60n
MN3 cn2 c 0 0 CMOSN W=120n L=60n 
.ends nand3inp

.subckt nor2inp a b vdd x
mp1 cp1 a vdd vdd CMOSP W=240n L=60n 
mp2 x b cp1 vdd CMOSP W=240n L=60n 
mn1 x a 0 0 CMOSN W=120n L=60n
mn2 x b 0 0 CMOSN W=120n L=60n
.ends nor2inp

.subckt nor3inp a b c vdd x
mp1 cp1 a vdd vdd CMOSP W=240n L=60n
mp2 cp2 b cp1 vdd CMOSP W=240n L=60n
mp3 x c cp2 vdd CMOSP W=240n L=60n
mn1 x a 0 0 CMOSN W=120n L=60n
mn2 x b 0 0 CMOSN W=120n L=60n
mn3 x c 0 0 CMOSN W=120n L=60n
.ends nor3inp

.subckt or2inp a b vdd z
mp1 cp1 a vdd vdd CMOSP W=240n L=60n
mp2 x b cp1 vdd CMOSP W=240n L=60n
mn1 x a 0 0 CMOSN W=120n L=60n
mn2 x b 0 0 CMOSN W=120n L=60n
mp3 z x vdd vdd CMOSP W=240n L=60n
mn3 z x 0 0 CMOSN W=120n L=60n
.ends or2inp

.subckt inv a vdd z
mp1 z a vdd vdd CMOSP W=240n L=60n
mn1 z a 0 0 CMOSN W=120n L=60n
.ends inv

.subckt buf a vdd z
mp1 z a vdd vdd CMOSP W=240n L=60n
mn1 z a 0 0 CMOSN W=120n L=60n
mp2 d z vdd vdd CMOSP W=240n L=60n
mn2 d z 0 0 CMOSN W=120n L=60n
.ends buf
.endl
