.lib std_cells

.subckt and2inp a b vdd z
MP1 i a vdd vdd CMOSP W=0.24U L=0.08U 
MP2 i b vdd vdd CMOSP W=0.24U L=0.08U 
MN1 i a cn1 0 CMOSN W=0.12U L=0.08U 
MN2 cn1 b 0 0 CMOSN W=0.12U L=0.08U
mp3 z i vdd vdd CMOSP W=0.24U L=0.08U
mn3 z i 0 0 CMOSN W=0.12U L=0.08U
$c1 i 0 .4344f
$c2 a 0 .3978f
$c3 b 0 .3234f
$c4 z 0 .345f
.ends and2inp

.subckt nand2inp a b vdd z
MP1 z a vdd vdd CMOSP W=0.24U L=0.08U 
MP2 z b vdd vdd CMOSP W=0.24U L=0.08U 
MN1 z a cn1 0 CMOSN W=0.12U L=0.08U 
MN2 cn1 b 0 0 CMOSN W=0.12U L=0.08U
$c1 a 0 .3294f
$c2 b 0 .3468f
$c3 z 0 .3654f
.ends nand2inp

.subckt nand3inp a b c vdd z
MP1 z a vdd vdd CMOSP W=0.24U L=0.08U 
MP2 z b vdd vdd CMOSP W=0.24U L=0.08U 
MP3 z c vdd vdd CMOSP W=0.24U L=0.08U 
MN1 z a cn1 0 CMOSN W=0.12U L=0.08U 
MN2 cn1 b cn2 0 CMOSN W=0.12U L=0.08U
MN3 cn2 c 0 0 CMOSN W=0.12U L=0.08U
$c1 a 0 .3294f
$c2 b 0 .3468f
$c3 z 0 .3654f
.ends nand3inp

.subckt nor2inp a b vdd x
mp1 cp1 a vdd vdd CMOSP W=0.24U L=0.08U
mp2 x b cp1 vdd CMOSP W=0.24U L=0.08U
mn1 x a 0 0 CMOSN W=0.12U L=0.08U
mn2 x b 0 0 CMOSN W=0.12U L=0.08U
$c1 a 0 .2046f 
$c2 b 0 .2598f
$c3 x 0 .4062f
.ends nor2inp

.subckt nor3inp a b c vdd x
mp1 cp1 a vdd vdd CMOSP W=0.24U L=0.08U
mp2 cp2 b cp1 vdd CMOSP W=0.24U L=0.08U
mp3 x c cp2 vdd CMOSP W=0.24U L=0.08U
mn1 x a 0 0 CMOSN W=0.12U L=0.08U
mn2 x b 0 0 CMOSN W=0.12U L=0.08U
mn3 x c 0 0 CMOSN W=0.12U L=0.08U
$c1 a 0 .2046f 
$c2 b 0 .2598f
$c3 x 0 .4062f
.ends nor3inp

.subckt or2inp a b vdd z
mp1 cp1 a vdd vdd CMOSP W=0.24U L=0.08U
mp2 x b cp1 vdd CMOSP W=0.24U L=0.08U
mn1 x a 0 0 CMOSN W=0.12U L=0.08U
mn2 x b 0 0 CMOSN W=0.12U L=0.08U
mp3 z x vdd vdd CMOSP W=0.24U L=0.08U
mn3 z x 0 0 CMOSN W=0.12U L=0.08U
c1 a 0 .2784f
c2 b 0 .3042f
c3 x 0 .3714f
c4 z 0 .3576f
.ends or2inp

.subckt inv a vdd z
mp1 z a vdd vdd CMOSP W=0.24U L=0.08U
mn1 z a 0 0 CMOSN W=0.12U L=0.08U
c1 a 0 .2304f
c2 z 0 .3456f
.ends inv

.subckt buf a vdd z
mp1 z a vdd vdd CMOSP W=0.24U L=0.08U
mn1 z a 0 0 CMOSN W=0.12U L=0.08U
mp2 d z vdd vdd CMOSP W=0.24U L=0.08U
mn2 d z 0 0 CMOSN W=0.12U L=0.08U
c1 a 0 .3822f
c2 z 0 .3098f
c3 d 0 .3491f
.ends buf
.endl
